US09278981B2
Stage 169.2 5-Bromo-6-chloro-N-(4-(chlorodifluoromethoxy)phenyl)-nicotinamide
5-Bromo-6-chloro-nicotinic acid (8 g, 33.8 mmol) was suspended in toluene (70 mL). DMF (0.77 mL, 10.15 mmol) was added followed by slow addition of SOCl2 (7.4 mL, 102 mmol) and the RM was stirred for 1 h at 80° C. After cooling at RT, the toluene was evaporated off under reduce pressure. The residue was dissolved in THF (70 mL) and cooled to −10-15° C. and treated with DIPEA (11.8 mL, 67.7 mmol) followed by the slow addition of a solution of 4-(chloro-difluoro-methoxy)aniline (6.88 g, 35.5 mmol) in THF (70 mL) over 10 min. The RM was allowed to warm at RT and stirred for 1 h, the solvent was evaporated off under reduced pressure. The residue was dissolved in TBME, the solution was washed with 1 M HCl, 10% aq. NaHCO3 and brine, dried over Na2SO4 and concentrated under reduced pressure until crystallisation started. n-Heptane was then added and the product was filtered and dried to afford the title compound as a beige crystalline powder. HPLC (Condition 4) tR=6.46 min, UPLC-MS (Condition 3) tR=1.29 min, m/z=411 [M+H]+.

reactant | 5-Bromo-6-chloro-nicotinic acid | 33.8 mmol, 8 g | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | DMF | 10.15 mmol, 0.77 mL | CN(C)C=O | C3H7NO
reactant | SOCl2 | 102 mmol, 7.4 mL | O=S(Cl)Cl | Cl2OS
reactant | DIPEA | 67.7 mmol, 11.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(chloro-difluoro-methoxy)aniline | 35.5 mmol, 6.88 g | ClC(OC1=CC=C(N)C=C1)(F)F | C7H6ClF2NO
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 5-Bromo-6-chloro-N-(4-(chlorodifluoromethoxy)phenyl)-nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)Cl)C1)Cl | C13H7BrCl2F2N2O2
